US04410696
Following a procedure similar to that of Example 1 but using 2.544 g of 4-carbamoylimidazolium-5-olate and 5.922 g of p-benzyloxybenzoyl chloride, there was obtained 5-carbamoyl-1H-imidazole-4-yl p-benzyloxybenzoate.

reactant | 4-carbamoylimidazolium-5-olate | 2.544 g | C(N)(=O)C=1NC=[NH+]C1[O-] | C4H5N3O2
reactant | p-benzyloxybenzoyl chloride | 5.922 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)Cl)C=C1 | C14H11ClO2
product | 5-carbamoyl-1H-imidazole-4-yl p-benzyloxybenzoate | C(C1=CC=CC=C1)OC1=CC=C(C(=O)OC=2N=CNC2C(N)=O)C=C1 | C18H15N3O4
